US05145869
Into a solution of methyl 5-(3,4-dimethylphenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate (0.55 g) in dry dichloromethane (10 ml) were added portions of m-chloroperbenzoic acid (70%, 0.31 g) with stirring at -78° C. After stirring at -78° C. for 3 hours, sodium sulfite was added. The reaction mixture was washed with a saturated sodium bicarbonate solution and water, dried over MgSO4, and concentrated in vacuo. The residue was purified by flash column chromatography on silica by eluting with benzene/ethyl acetate (2:1) to give 0.12 g of methyl 5-(3,4-dimethylphenylsulfinyl)-4-(N,N-dipentylcarbamoyl)pentanoate (diastereomer A) in a early fraction and 0.36 g of diastereomer B in a later fraction.

reactant | methyl 5-(3,4-dimethylphenylthio)-4-(N,N-dipentylcarbamoyl)pentanoate | 0.55 g | CC=1C=C(C=CC1C)SCC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C25H41NO3S
reactant | m-chloroperbenzoic acid | 0.31 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | sodium sulfite | S(=O)([O-])[O-].[Na+].[Na+]
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | methyl 5-(3,4-dimethylphenylsulfinyl)-4-(N,N-dipentylcarbamoyl)pentanoate | 0.12 g | CC=1C=C(C=CC1C)S(=O)CC(CCC(=O)OC)C(N(CCCCC)CCCCC)=O | C25H41NO4S
